* Simple parametrized opamp models for general purpose simulations.
* The most important transient and AC properties are included.
* DC precision (offset, bias, ...) is not modelled.
* All frequency dependent behavior is linked to the GBW (Gain BandWidth
*  product) parameter, so that GBW can be used to scale the whole opamp.
*
* The open loop DCgain and GBW parameters of the current feedback opamp are 
*  specified for the combination of the opamp and its feedback resistor Rfb 
*  in series with its inverting input.  This convention makes these parameters  
*  equivalent and comparable to voltage feedback opamp parameters.
* To derive DCgain and GBW from CFB opamp datasheets: divide the 
*  published open loop DC transresistance by the specified Rfb to
*  obtain DCgain, and divide the open loop transimpedance-frequency product
*  as seen in typical curves by the specified Rfb to obtain GBW. 
* Note that for wideband opamps (both VFB and CFB) the unity gain bandwidth
*  is much higher than the GBW due to high Q closed loop poles.  For example
*  an opamp with 1GHz unity gain bandwidth might have a GBW of only 300MHz. 
*
*Luc Heylen 2006
*


* Parametrized Voltage Feedback opamp
* slew: slew rate [V/s], relative to GBW parameter.
* fmargin: corner freq of high order poles [Hz], relative to GBW.
.subckt paramVFBopamp +In -In Vcc Vee OUT
.param GBW=10e6, DCgain=1e5, VsatPos=1.5V, VsatNeg=1.5V
.param slew=1, fmargin=4, Rout=100, curlimSource=40mA, curlimSink=40mA, Iq=4mA
D1 +in Vcc Dclamp
D2 Vee +in Dclamp
D3 -in Vcc Dclamp
D4 Vee -in Dclamp
B1 0 n3 I=1e-3*slew*tanh(V(n2)*2*pi/slew)/2/pi tripdv=10m tripdt={10m/GBW}
C1 n3 0 {1e-3/(2*pi*GBW)} Rser=0
R1 n3 0 {1e3*DCgain}
G1 0 n1 +in -in 2e-3
C2 n2 0 {2.2034e-3/(fmargin*GBW*2*pi)}
C3 n1 0 {0.3374e-3/(fmargin*GBW*2*pi)}
L1 n1 n2 {0.9705e3/(fmargin*GBW*2*pi)}
R2 n1 0 1k noiseless
R3 n2 0 1k noiseless
D5 out Vcc Dclamp
D6 Vee out Dclamp
B_1 n4 out I=limit((V(n4)-V(out))/Rout,-curlimSink,curlimSource) tripdv=10m tripdt={10m/GBW}
D_1 n3 Vcc DsatPos
D_2 Vee n3 DsatNeg
E1 n4 0 n3 0 1
C6 out n4 1p Rpar=1e6
R4 n4 0 1k
.model Dclamp D(Ron=0.1 Roff=2e8 Vfwd=0.6)
.model DsatPos D(Ron=300 Roff={DCgain*1e12} Vfwd={-VsatPos})
.model DsatNeg D(Ron=300 Roff={DCgain*1e12} Vfwd={-VsatNeg})
.ends paramVFBopamp


* Parametrized Current Feedback opamp
* slew: slew rate [V/s], relative to GBW parameter.
* fmargin: corner freq of high order poles [Hz], relative to GBW.
* Rfb: specified feedback resistor for which the other parameters are valid.
* Rinv and Linv: resistance and inductance of inverting input.
*  Note: open loop transresistance is DCgain*Rfb
.subckt paramCFBopamp +In -In Vcc Vee OUT
.param GBW=100e6, DCgain=1e3, VsatPos=1.5V, VsatNeg=1.5V, Rfb=1k, Rinv=10, Linv=10n
.param slew=5, fmargin=3, Rout=10, curlimSource=60mA, curlimSink=60mA, Iq=10mA
D1 +in Vcc Dclamp
D2 Vee +in Dclamp
D3 -in Vcc Dclamp
D4 Vee -in Dclamp
C2 n2 0 {2.2034e-3/(fmargin*GBW*2*pi)}
C3 n1 0 {0.3374e-3/(fmargin*GBW*2*pi)}
L1 n1 n2 {0.9705e3/(fmargin*GBW*2*pi)}
E1 nbuf 0 +in 0 1
L2 nbuf -in {Linv} Rser={Rinv}
R3 n1 0 1k noiseless
R4 n2 0 1k noiseless
B1 0 n3 I=1e-3*slew*tanh(V(n2)*2*pi/slew)/2/pi tripdv=10m tripdt={10m/GBW}
C1 n3 0 {1e-3/(2*pi*GBW)} Rser=0
R1 n3 0 {1e3*DCgain}
F1 n1 0 E1 {2e-3*Rfb}
D5 out Vcc Dclamp
D6 Vee out Dclamp
B_1 n4 out I=limit((V(n4)-V(out))/Rout,-curlimSink,curlimSource) tripdv=10m tripdt={10m/GBW}
D_1 n3 Vcc DsatPos
D_2 Vee n3 DsatNeg
E2 n4 0 n3 0 1
C6 out n4 1p Rpar=1e6
R2 n4 0 1k
.model Dclamp D(Ron=0.1 Roff=2e8 Vfwd=0.6)
.model DsatPos D(Ron=300 Roff={DCgain*1e12} Vfwd={-VsatPos})
.model DsatNeg D(Ron=300 Roff={DCgain*1e12} Vfwd={-VsatNeg})
.ends paramCFBopamp


.end


